US04326055
In a manner analogous to that described in Example 1, from 5-chloromethyl-1,1,3,3-tetramethyl-indane and triphenylphosphine there can be obtained [1-(1,1,3,3-tetramethyl-5-indanyl)methyl]-triphenylphosphonium chloride.

reactant | 5-chloromethyl-1,1,3,3-tetramethyl-indane | ClCC=1C=C2C(CC(C2=CC1)(C)C)(C)C | C14H19Cl
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | [1-(1,1,3,3-tetramethyl-5-indanyl)methyl]-triphenylphosphonium chloride | [Cl-].CC1(CC(C2=CC(=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C | InChI=1S/C32H34P.ClH/c1-31(2)24-32(3,4)30-22-25(20-21-29(30)31)23-33(26-14-8-5-9-15-26,27-16-10-6-11-17-27)28-18-12-7-13-19-28;/h5-22H,23-24H2,1-4H3;1H/q+1;/p-1
